US04216152
2-Bromo-but-2-ene was reacted with o-nitrophenol to yield 2-but-1-en-oxynitrobenzene; which was reduced to the corresponding aniline; then reacted with N-chloromethyl-2-pyrrolidone to form the corresponding N-methylene-2-pyrrolidonyl derivative.

reactant | 2-Bromo-but-2-ene | BrC(C)=CC | C4H7Br
reactant | o-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
product | 2-but-1-en-oxynitrobenzene | C(=CCC)OC1=C(C=CC=C1)[N+](=O)[O-] | C10H11NO3
